US09029361B2
Part A. Preparation of methyl (4R)-1-(2-cyanoethyl)-4-hydroxy-L-prolinate
To a solution of methyl (4R)-4-hydroxy-L-prolinate hydrochloride (4.53 g, 25 mmol) in water (10 mL) was added acrylonitrile (6.63 g, 125 mmol). The mixture was stirred while heating at 50° C., and a solution of potassium hydroxide (1.403 g, 25 mmol) in water (15 mL) was added dropwise. The resulting mixture was heated to 70° C. and stirred for two hours. The cooled mixture was extracted with diethyl ether (4×25 mL). The combined ether extracts were dried with MgSO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography on silica gel using a solvent gradient of 2-5% methanol in dichloromethane to obtain desired the title compound as colorless oil (2.3 g, 46%). 1H NMR (400 MHz, DMSO-d6) δ ppm 4.95-4.87 (m, 1H), 4.26-4.17 (m, 1H), 3.62 (s, 3H), 3.50 (t, J=7.6, 1H), 3.27-3.15 (m, 1H), 2.98-2.87 (m, 1H), 2.76-2.66 (m, 1H), 2.67-2.56 (m, 2H), 2.41-2.33 (m, 1H), 1.99 (ddd, J=12.8, 7.4, 6.4, 1H), 1.93-1.83 (m, 1H); MS (ESI) m/z 199 (M+H)+.

reactant | methyl (4R)-4-hydroxy-L-prolinate hydrochloride | 25 mmol, 4.53 g | Cl.O[C@@H]1C[C@H](NC1)C(=O)OC
reactant | acrylonitrile | 125 mmol, 6.63 g | C(C=C)#N | C3H3N
reactant | potassium hydroxide | 25 mmol, 1.403 g | [OH-].[K+]
solvent | water | 10 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | methyl (4R)-1-(2-cyanoethyl)-4-hydroxy-L-prolinate | 2.3 g, 46% | C(#N)CCN1[C@H](C(=O)OC)C[C@H](C1)O | C9H14N2O3
